US07220769B2
4-(5-Chlorobenzimidazol-2-yl)-N-(1,2,2,6,6-pentamethylpiperidin-4-yl)-benzamide
A mixture of 4-(5-chlorobenzimidazol-2-yl)benzoic acid (0.5 g, 1.63 mmol), 1-hydroxybenzotriazole (0.242 g, 1.79 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.34 g, 1.89 mmol) in THF (15 ml) was heated for 1 h at 35–40° C. 1,2,2,6,6-Pentamethyl-4-aminopiperidine (0.333 g, 1.96 mmol) in THF (3 ml) was added dropwise and the reaction was left 1 h at 60° C. After cooling, the solvent was removed under reduced pressure and the residue was treated with 2N NaOH (15 ml) and extracted with ethyl acetate (20 ml). the organic layer was washed with brine, dried over Na2SO4, filtered and evaporated under reduced pressure to give a residue that was treated with CH3CN. The suspension was stirred for 1 h, filtered and dried at 50° C. to give 0.35 g of the title compound (yield 50.5%) as a yellow solid, mp>250° C.

reactant | 4-(5-chlorobenzimidazol-2-yl)benzoic acid | 1.63 mmol, 0.5 g | ClC1=CC2=C(N=C(N2)C2=CC=C(C(=O)O)C=C2)C=C1 | C14H9ClN2O2
reactant | 1-hydroxybenzotriazole | 1.79 mmol, 0.242 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.89 mmol, 0.34 g | Cl.CN(CCCN=C=NCC)C
reactant | 1,2,2,6,6-Pentamethyl-4-aminopiperidine | 1.96 mmol, 0.333 g | CN1C(CC(CC1(C)C)N)(C)C | C10H22N2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | CH3CN | CC#N | C2H3N
product | 4-(5-Chlorobenzimidazol-2-yl)-N-(1,2,2,6,6-pentamethylpiperidin-4-yl)-benzamide | 0.35 g, yield 50.5% | ClC1=CC2=C(N=C(N2)C2=CC=C(C(=O)NC3CC(N(C(C3)(C)C)C)(C)C)C=C2)C=C1 | C24H29ClN4O
